US08445684B2
3-(Benzyloxy)-5-[(1S,2S)-2-[(3-pyridyloxy)methyl]cyclopropyl]pyridine
1,1′-(Azodicarbonyl)dipiperidine (237 mg, 0.94 mmol, 1.6 equiv.) was dissolved in 2 mL of toluene (dried with molecular sieve 3 Å) in a 10 mL round-bottom flask with a side neck. The flask was equipped with rubber septa and a magnetic stirrer. The atmosphere was exchanged with Ar (3 times), and the flask was cooled with an ice bath. Tri-n-butylphosphine (232 μL, 0.94 mmol, 1.6 equiv.) was added dropwise. The mixture was warmed to room temperature and stirred for 10 min. The resulting colorless solution was then added dropwise (via syringe) with ice cooling to a solution of (1S,2S)-2-[(5-(benzyloxy)-3-pyridyl]cyclopropylmethanol (50 mg, 0.59 mmol) and 3-hydroxypyridine (89 mg, 0.94 mmol, 1.6 equiv.) in a 25 mL round-bottom flask (equipped with a magnetic stirrer and an Ar balloon). The resulting mixture was warmed to room temperature and stirred for 6 h. Air was bubbled through the mixture with stirring for 1 h. Toluene was evaporated, and the residue was purified by CC on SiO2 (15×1.0 cm, EtOAc) to give the crude product, which was contaminated with a by-product, 2,5-di-(1-piperidinyl)-1,3,4-oxadiazole. This material was further purified by preparative HPLC in two portions (Supelco Discovery C18, 250×21.2 mm, 5 μm particle size, UV detection at 270 nm, flow rate 12.5 mL/min, gradient from 20% to 100% CH3CN in water within 40 min, then 100% CH3CN for 20 min; tR 22.7-24.0 min) to give a yellowish oil (125 mg, 64%). MS (EI) m/z 332 (M+, 67%).

reactant | 1,1′-(Azodicarbonyl)dipiperidine | 0.94 mmol, 237 mg, 1.6 equiv. | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | Tri-n-butylphosphine | 0.94 mmol, 232 μL, 1.6 equiv. | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (5-(benzyloxy)-3-pyridyl]cyclopropylmethanol | 0.59 mmol, 50 mg | C(C1=CC=CC=C1)OC=1C=C(C=NC1)C(O)C1CC1 | C16H17NO2
reactant | 3-hydroxypyridine | 0.94 mmol, 89 mg, 1.6 equiv. | OC=1C=NC=CC1 | C5H5NO
reactant | 2,5-di-(1-piperidinyl)-1,3,4-oxadiazole | N1(CCCCC1)C=1OC(=NN1)N1CCCCC1 | C12H20N4O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(Benzyloxy)-5-[(1S,2S)-2-[(3-pyridyloxy)methyl]cyclopropyl]pyridine | 125 mg, 64% | C(C1=CC=CC=C1)OC=1C=NC=C(C1)[C@@H]1[C@H](C1)COC=1C=NC=CC1 | C21H20N2O2
